US08455141B2
(1) Synthesis of Trimethylsilyl 3-Butenate
3-butenoic acid (Aldrich, 50.0 g) was placed in a 200 mL flask with three openings having a circulated cooling line, a stirring apparatus and a nitrogen gas guide pipe. The flask was immersed in an ice bath, and hexamethyl disilazane (46.9 g) was dropped while a nitrogen gas was introduced and the solution was stirred. A white crystal deposited and the entirety became a sherbet-like form. The solution was stirred and a nitrogen gas was introduced so as to expel an ammonium gas, and then, the reaction was progressed at 100° C. for approximately 5 hours. Most of the crystal in the reacting liquid dissolved and was converted to a brownish and translucent solution. Refinement was carried out through distillation under, reduced pressure. A slight amount of white crystal was mixed in the distilland, and therefore, this was removed through filtration under pressure (PTFE filter, diameter of pores: 0.1 μm). Trimethylsilyl 3-butenate (67.8 g) was gained as a colorlesss and transparent liquid (purity by measure of gas chromatography: 95.1%).

reactant | 3-butenoic acid | 50.0 g | C(CC=C)(=O)O | C4H6O2
reactant | hexamethyl disilazane | 46.9 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonium | [NH4+]
product | Trimethylsilyl 3-Butenate | C(CC=C)(=O)O[Si](C)(C)C | C7H14O2Si
